2138-09-10 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2138-9-10**] 03:45 AM
 FEVER - 103.5
F - [**2138-9-9**] 07:00 PM
   - CT pelvis shows striated nephrogram on the right indicative of right
   pyelonephritis
   - urology consult: no evidence of obstruction.  the contrast in the
   right kidney is likely pooling in the pelvis because of infection.
   continue IV antibiotics.  will need outpatient follow up for recurrent
   UTIs.
   - fever and rigors during the day, given tylenol
   - 2 AM - cough, tachypnea, desat down to 70s, slighty bloody sputum -
   put on nonrebreather mask and NC @ 6L and CXR obtained
   - CXR showed increased pulmonary edema.  given lasix 40 IV, responded
   very well, ~2.5L output.  Also given morphine 1mg, nitropaste in case
   edema was cardiogenic
   - placed on BIPAP: PS 8/PEEP 5, FiO2 60%, pt saturating 97%
 weaned to
   FiO2 40%, saturating 96%
 transitioned to face mask
 now on 4L by NC
   - ordered for TTE today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-9**] 10:00 PM
   Furosemide (Lasix) - [**2138-9-10**] 03:00 AM
   Morphine Sulfate - [**2138-9-10**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-10**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.1
C (98.8
   HR: 81 (70 - 125) bpm
   BP: 92/48(58) {86/36(49) - 125/82(93)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,552 mL
                                                                    158 mL
   PO:
                                                                  1,560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    992 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  3,415 mL
   Urine:
                                                                  3,180 mL
                                                                  3,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,372 mL
                                                                 -3,257 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (467 - 467) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.48/33/92.[**Numeric Identifier 641**]/22/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General: Alert, oriented, no acute distress, breathing comfortably on
   4L nasal canula
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Crackles at the bases bilaterally, no wheezes or ronchi, good
   air movement bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, tender in right upper quadrant and right flank, bowel
   sounds present, no rebound tenderness, positive voluntary guarding, no
   organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   246 K/uL
   12.9 g/dL
   106 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   5 mg/dL
   100 mEq/L
   134 mEq/L
   37.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2138-9-9**]  06:01 AM
                             [**2138-9-9**]  04:44 PM
                             [**2138-9-10**]  02:15 AM
                             [**2138-9-10**]  02:40 AM
                             [**2138-9-10**]  04:02 AM
                             [**2138-9-10**]  05:00 AM
   WBC
   12.5
   13.4
   Hct
   32.4
   37.9
   Plt
   139
   246
   Cr
   0.7
   0.7
   0.8
   TCO2
   23
   24
   25
   Glucose
   129
   98
   106
   Other labs: PT / PTT / INR:14.9/32.5/1.3, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Ucx - >100,000 gram neg rods, speciation pending
   BCx, MRSA screen
 pending
   CXR
 increased pulmonary edema bilaterally
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PYELONEPHRITIS
   21 year old female with a history of frequent urinary tract infections
   here with pyelopephritis and severe sepsis.
   Respiratory Distress
   Patient had episode of tachypneic and hypoxia last night from flash
   pulmonary edema.  Responded to Lasix 40 mg IV x 1.  Good urine output.
   Differential for causes of the respiratory distress include volume
   overload, cardiogenic pulmonary edemak, pneumonia, congenital heart
   defects, cardiomyopathy.  Pulmonary edema from volume overload is
   possible in light of low albumin, possibly because of sepsis.
   Cardiogenic causes should be explored as flash pulmonary edema in a
   relatively healthy 21 year old is very uncommon.  In light of her
   pyelonephritis, she has a source for possible bacteremia which may seed
   the lungs causing a new pneumonia.  Other considerations are congenital
   defects of the heart, genetic conditions such as HOCM, or
   cardiomyopathies.  Patient
s symptoms responded to diuresis and BIPAP
   which speak more towards pulmonary edema rather than PEs or other
   noncardiogenic causes.
   - add on albumin to today
s labs
   - TTE scheduled for today to evaluate cardiac structure and function
   Severe Sepsis/Pyelonephritits:  Patient with fevers and hypotension in
   the setting of complicated urinary tract infection, but afebrile and
   normal leukocytes today  She received 8 liters of normal saline in the
   emergency and antibiotic coverage with ciprofloxacin and flagyl.
   Currently her systolic blood pressures are in the 90s.  Lactate is
   within normal limits.  Currently no foley to measure urine output.
   Physical exam is notable for crackles at the lung bases.
   - likely adequately fluid resusciated at this time, if persistent
   hypotension or evidence of hypoperfusion will place central line to
   allow for levophed and measurement of CVP and ScvO2
   - target UOP > 30 cc/hr, SBP > 90
   - continue zosyn for antibiotic coverage for complicated pyelonephritis
   - follow urine and blood cultures
   - if concerns of right renal abscess developing, consider repeat CT
   scan if patient worsens clinically
   - UTI prevention counseling
   Metabolic Acidosis:  On presentation serum bicarbonate was 20 with
   anion gap of 12.  Lactate is within normal limits.  Ketones present in
   urine.  Likely related to small degree of starvation ketosis.  Venous
   blood gas on arrival to ICU with pH of 7.38.
   - trend bicarbonate for now
   - check PM electrolytes
   FEN: Will hold additional IVF for now, replete electrolytes PRN,
   regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, Mother [**Name (NI) **] [**Name (NI) 5075**] [**Telephone/Fax (1) 7857**]
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2138-9-9**] 05:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now

2138-09-10 10:03:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced episode of respiratory distress last PM, early this AM.
   Increased FiO2 requirement.
   Received mask ventilation, and lasix with good diuresis, and good
   clinical improvement.
   Much improved this AM.
   Right flank pain improved.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-9**] 10:00 PM
   Furosemide (Lasix) - [**2138-9-10**] 03:00 AM
   Morphine Sulfate - [**2138-9-10**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-9-10**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.1
C (98.8
   HR: 69 (69 - 125) bpm
   BP: 95/38(42) {86/36(42) - 125/82(93)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,552 mL
                                                                    168 mL
   PO:
                                                                  1,560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    992 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  3,735 mL
   Urine:
                                                                  3,180 mL
                                                                  3,735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,372 mL
                                                                 -3,567 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (467 - 467) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.48/33/92.[**Numeric Identifier 641**]/22/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Right flank tenderness (less severe)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.9 g/dL
   246 K/uL
   106 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   5 mg/dL
   100 mEq/L
   134 mEq/L
   37.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2138-9-9**]  06:01 AM
                             [**2138-9-9**]  04:44 PM
                             [**2138-9-10**]  02:15 AM
                             [**2138-9-10**]  02:40 AM
                             [**2138-9-10**]  04:02 AM
                             [**2138-9-10**]  05:00 AM
   WBC
   12.5
   13.4
   Hct
   32.4
   37.9
   Plt
   139
   246
   Cr
   0.7
   0.7
   0.8
   TCO2
   23
   24
   25
   Glucose
   129
   98
   106
   Other labs: PT / PTT / INR:14.9/32.5/1.3, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- attributed to acute pulmonary edema in context
   of volume resussitation, marked postive fluid balance.  Doubt pulmonary
   edema, pneumonia.  Supported by radiograph.  Improved following net
   diuresis since onset.  Follow up CXR, as pt at risk for ARDS.
   HYPOTENSION  -- improved with fluid resussitation.  Attributed to
   sepsis and hypovolemia.  No evidence or concern for other etiologies
   such as GI bleed, cardiac decompensation or pulmonary embolism.
   Monitor BP, Maintain MAP >60 mmHg.  [**Month (only) 11**] require central line for CVP,
   SvO2 monitoring if remains hypotensive
   PULMONARY EDEMA -- attributed to cardiogenic, less likely ARDS.
   Pulmonary edema in setting of volume repletion.  Will assess cardiac
   function to assess for valvular disease.
   SEPSIS SYNDROME -- attributed to urinary source.  Continue current
   level of support.  [**Month (only) 11**] require central line.  Monitor for evidence of
   ARDS.  Continue antimicrobials.
   PYELONEPHRITIS, RIGHT -- supported by abd CT.  No contrast seen beyond
   right renal pelvis, suggesting possible obstruction such as stone -->
   would check renal US.  No immediate plans for Urology.  Urine culture
   with GNR
 await identification and antibiotic sensitivities.
   FLUIDS
 volume resussitated.  Allow net negative.  Monitor UO, I/O.
   Monitor electrolytes during active diuresis.
   NUTRITONAL SUPPORT
 encourage PO
   HYPOCALCEMIA -- Repleted. Monitor.
   HYPOPHOSPHATEMIA
 Repleted. Monitor.
   HYPOMAGNESEMIA
 Continue to replete.  Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-9-9**] 05:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-11 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ECHO: normal; L pleural effusion and ascites
   -on [**9-11**], ask Uro if she needs re-imaging
   -f/u appt with Dr. [**Last Name (STitle) 3410**] in Uro for w/u of recurrent UTI's (call
   [**7-/2149**] in AM and they will make appointment for her and email you with
   it)
   -if does well o/n, might be able to be discharged home from ICU.
   -pt still SaO2 92% on 2-3L NC. Coughing light yellow sputum, pink
   tinged. feels breathing is better. Low grade temp (99-100). Sputum
   sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-10**] 08:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 57 (57 - 104) bpm
   BP: 101/62(71) {75/36(39) - 107/89(93)} mmHg
   RR: 15 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    770 mL
                                                                     36 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    170 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  5,545 mL
                                                                  1,160 mL
   Urine:
                                                                  5,545 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,775 mL
                                                                 -1,124 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, no acute distress, breathing comfortably on
   4L nasal canula
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Crackles at the bases bilaterally, no wheezes or ronchi, good
   air movement bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, tender in right upper quadrant and right flank, bowel
   sounds present, no rebound tenderness, positive voluntary guarding, no
   organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   256 K/uL
   12.0 g/dL
   99 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   7 mg/dL
   103 mEq/L
   137 mEq/L
   34.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2138-9-9**]  06:01 AM
                             [**2138-9-9**]  04:44 PM
                             [**2138-9-10**]  02:15 AM
                             [**2138-9-10**]  02:40 AM
                             [**2138-9-10**]  04:02 AM
                             [**2138-9-10**]  05:00 AM
                             [**2138-9-10**]  05:00 PM
                             [**2138-9-11**]  03:42 AM
   WBC
   12.5
   13.4
   7.2
   Hct
   32.4
   37.9
   34.5
   Plt
   139
   246
   256
   Cr
   0.7
   0.7
   0.8
   0.8
   0.7
   TCO2
   23
   24
   25
   Glucose
   129
   98
   106
   127
   99
   Other labs: PT / PTT / INR:13.4/33.9/1.1, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Sputum ([**9-11**])
 gram stain: no organisms, culture: pending
   Ucx ([**9-9**])
 negative
   BCx, MRSA screen ([**9-9**])
 pending
   CXR
 improvement of bilateral pleural edema
   Assessment and Plan
 PULMONARY EDEMA
 HYPOTENSION (NOT SHOCK)
 PYELONEPHRITIS
   21 year old female with a history of frequent urinary tract infections
   here with pyelopephritis and severe sepsis.
   Respiratory Distress
   Patient had episode of tachypneic and hypoxia last night from flash
   pulmonary edema.  Responded to Lasix 40 mg IV x 1.  Good urine output.
   Differential for causes of the respiratory distress include volume
   overload, cardiogenic pulmonary edemak, pneumonia, congenital heart
   defects, cardiomyopathy.  Pulmonary edema from volume overload is
   possible in light of low albumin, possibly because of sepsis.
   Cardiogenic causes should be explored as flash pulmonary edema in a
   relatively healthy 21 year old is very uncommon.  In light of her
   pyelonephritis, she has a source for possible bacteremia which may seed
   the lungs causing a new pneumonia.  Other considerations are congenital
   defects of the heart, genetic conditions such as HOCM, or
   cardiomyopathies.  Patient
s symptoms responded to diuresis and BIPAP
   which speak more towards pulmonary edema rather than PEs or other
   noncardiogenic causes.
   - add on albumin to today
s labs
   - TTE scheduled for today to evaluate cardiac structure and function
   Severe Sepsis/Pyelonephritits:  Patient with fevers and hypotension in
   the setting of complicated urinary tract infection, but afebrile and
   normal leukocytes today  She received 8 liters of normal saline in the
   emergency and antibiotic coverage with ciprofloxacin and flagyl.
   Currently her systolic blood pressures are in the 90s.  Lactate is
   within normal limits.  Currently no foley to measure urine output.
   Physical exam is notable for crackles at the lung bases.
   - likely adequately fluid resusciated at this time, if persistent
   hypotension or evidence of hypoperfusion will place central line to
   allow for levophed and measurement of CVP and ScvO2
   - target UOP > 30 cc/hr, SBP > 90
   - continue zosyn for antibiotic coverage for complicated pyelonephritis
   - follow urine and blood cultures
   - if concerns of right renal abscess developing, consider repeat CT
   scan if patient worsens clinically
   - UTI prevention counseling
   Metabolic Acidosis:  On presentation serum bicarbonate was 20 with
   anion gap of 12.  Lactate is within normal limits.  Ketones present in
   urine.  Likely related to small degree of starvation ketosis.  Venous
   blood gas on arrival to ICU with pH of 7.38.
   - trend bicarbonate for now
   - check PM electrolytes
   FEN: Will hold additional IVF for now, replete electrolytes PRN,
   regular diet
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2138-9-9**] 05:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Mother [**Name (NI) **] [**Name (NI) 5075**] [**Telephone/Fax (1) 7857**]
   Code status: Full code
   Disposition: ICU for now

2138-09-11 10:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel better.
   Tm lower.
   Continues to net spontaneou diurese
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-10**] 08:51 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-17**] Minimal
   Pain location: right flank
   Flowsheet Data as of  [**2138-9-11**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.9
   HR: 100 (56 - 104) bpm
   BP: 103/63(72) {75/44(39) - 108/89(93)} mmHg
   RR: 18 (15 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    770 mL
                                                                     53 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    170 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  5,545 mL
                                                                  1,360 mL
   Urine:
                                                                  5,545 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,775 mL
                                                                 -1,307 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   256 K/uL
   99 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   7 mg/dL
   103 mEq/L
   137 mEq/L
   34.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2138-9-9**]  06:01 AM
                             [**2138-9-9**]  04:44 PM
                             [**2138-9-10**]  02:15 AM
                             [**2138-9-10**]  02:40 AM
                             [**2138-9-10**]  04:02 AM
                             [**2138-9-10**]  05:00 AM
                             [**2138-9-10**]  05:00 PM
                             [**2138-9-11**]  03:42 AM
   WBC
   12.5
   13.4
   7.2
   Hct
   32.4
   37.9
   34.5
   Plt
   139
   246
   256
   Cr
   0.7
   0.7
   0.8
   0.8
   0.7
   TCO2
   23
   24
   25
   Glucose
   129
   98
   106
   127
   99
   Other labs: PT / PTT / INR:13.4/33.9/1.1, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- attributed to acute pulmonary edema in context
   of volume resussitation, marked postive fluid balance.  Doubt
   non-cardiogneic pulmonary edema, pneumonia.  Supported by radiograph.
   Continues to improve, now spontaneously diuresing.  Follow up CXR.
   HYPOTENSION  -- Resolved.  Attributed to sepsis and hypovolemia.  No
   evidence or concern for other etiologies such as GI bleed, cardiac
   decompensation or pulmonary embolism.  Monitor BP, Maintain MAP >60
   mmHg.  [**Month (only) 11**] require central line for CVP, SvO2 monitoring if remains
   hypotensive
   PULMONARY EDEMA -- attributed to cardiogenic, less likely ARDS.
   Pulmonary edema in setting of volume repletion.  Will assess cardiac
   function to assess for valvular disease.
   SEPSIS SYNDROME -- attributed to urinary source.  Resolved.  Continue
   antimicrobials.
   PYELONEPHRITIS, RIGHT -- supported by abd CT.  No contrast seen beyond
   right renal pelvis, suggesting possible obstruction such as stone -->
   would check renal US.  No immediate plans for Urology.  Urine culture
   with GNR
 await identification and antibiotic sensitivities.
   FLUIDS
 volume resussitated.  Allow net negative.  Monitor UO, I/O.
   Monitor electrolytes during active diuresis.
   NUTRITONAL SUPPORT
 encourage PO
   HYPOCALCEMIA -- Repleted. Monitor.
   HYPOPHOSPHATEMIA
 Repleted. Monitor.
   HYPOMAGNESEMIA
 Continue to replete.  Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-9-9**] 05:22 AM
   20 Gauge - [**2138-9-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes